US06057358
Ethyl (2-benzyloxy-4-nitrophenoxy)acetate (800 mg, 4.83 mmol) was dissolved in THF (50 ml); thereafter, sodium borohydride (457 mg, 12.1 mmol) was added and the mixture was heated to the reflux temperature. At the same temperature, methanol (5 ml) was slowly added dropwise over 30 min, followed by stirring at the reflux temperature for 30 min. The reaction solution was cooled to room temperature and water (10 ml) was added, followed by extraction with ethyl acetate (200 ml). The extracted organic layer was dried with magnesium sulfate and the solvent was evaporated; the resulting residue was purified by being subjected to column chromatography on silica gel using a 1:1 solvent system on n-hexane and ethyl acetate as an eluent. The fractions containing the product were collected and the solvent was evaporated to yield the end compound 2-(2-benzyloxy-4-nitrophenoxy)ethanol (400 ml).

reactant | Ethyl (2-benzyloxy-4-nitrophenoxy)acetate | 4.83 mmol, 800 mg | C(C1=CC=CC=C1)OC1=C(OCC(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C17H17NO6
reactant | sodium borohydride | 12.1 mmol, 457 mg | [BH4-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(2-benzyloxy-4-nitrophenoxy)ethanol | 400 ml | C(C1=CC=CC=C1)OC1=C(OCCO)C=CC(=C1)[N+](=O)[O-] | C15H15NO5
